US07163941B2
6-(2-Bromo-phenyl)-2-methylsulfanyl-pyrido[2,3-d]pyrimidine-7-carboxylic acid
3.372 g 3-(2-bromophenyl)2-oxopropionic acid in 20 ml DMF were treated with 4.434 g DBU under cooling and stirred for 10 min at RT. 2.728 g 4-amino-2-methylsulfanylpyrimidine-5-carbaldehyde were added and the mixture was stirred at 85° C. for 4.5 hrs. Stirring was continued over night at RT, then the solvent was evaporated and the residue dispensed in aqueous sodium carbonate solution. The mixture is extracted with ethyl acetate, then acidified to pH 2 and again extracted with chloroform. The chloroform extracts were dried and evaporated and the residue triturated with hot ethyl acetate. 2.786 g of the title product were thus obtained after filtration.

reactant | 3-(2-bromophenyl)2-oxopropionic acid | 3.372 g | BrC1=C(C=CC=C1)CC(C(=O)O)=O | C9H7BrO3
reactant | DBU | 4.434 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-amino-2-methylsulfanylpyrimidine-5-carbaldehyde | 2.728 g | NC1=NC(=NC=C1C=O)SC | C6H7N3OS
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-(2-Bromo-phenyl)-2-methylsulfanyl-pyrido[2,3-d]pyrimidine-7-carboxylic acid | 2.786 g | BrC1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)SC)N=C1C(=O)O | C15H10BrN3O2S
